US08541589B2
A mixture of 4-chloro-5-bromopyrimidine (0.193 g, 1.0 mmol), methyl 2-mercaptoacetate (0.116 g, 1.1 mmol) and sodium carbonate (0.159 g, 1.5 mmol) in DMF (0.7 mL) was heated under microwave irradiation to 150° C. for 20 minutes. The mixture was washed with water, extracted with ethyl acetate and purified by chromatography to yield methyl 2-(5-bromopyrimidin-4-ylthio)acetate (0.22 g, 84%).

reactant | 4-chloro-5-bromopyrimidine | 1.0 mmol, 0.193 g | ClC1=NC=NC=C1Br | C4H2BrClN2
reactant | methyl 2-mercaptoacetate | 1.1 mmol, 0.116 g | SCC(=O)OC | C3H6O2S
reactant | sodium carbonate | 1.5 mmol, 0.159 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | methyl 2-(5-bromopyrimidin-4-ylthio)acetate | 0.22 g, 84% | BrC=1C(=NC=NC1)SCC(=O)OC | C7H7BrN2O2S
